US08629137B2
3-{1-[6-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-3-fluoro-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
60 mg (0.21 mmol) 3-(3-fluoro-piperidin-4-yl)-7-methoxy-1,3,4,5-tetrahydro-benzo[d]-[1,3]diazepin-2-one, 60 mg (0.20 mmol) 6-(6-chloro-pyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one and 0.040 mL (0.30 mmol) TEA were stirred overnight in 1 mL DMF at RT. The reaction mixture was combined with 2 mL MeOH and the precipitate formed was suction filtered, washed with MeOH and diethyl ether and dried.

reactant | 3-(3-fluoro-piperidin-4-yl)-7-methoxy-1,3,4,5-tetrahydro-benzo[d]-[1,3]diazepin-2-one | 0.21 mmol, 60 mg | FC1CNCCC1N1C(NC2=C(CC1)C=C(C=C2)OC)=O | C15H20FN3O2
reactant | 6-(6-chloro-pyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 0.20 mmol, 60 mg | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C14H10ClN3O3
reactant | MeOH | 2 mL | CO | CH4O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-{1-[6-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-3-fluoro-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | CN1C(OC2=C1C(=CC(=C2)C(=O)C2=CC(=NC=N2)N2CC(C(CC2)N2C(NC1=C(CC2)C=C(C=C1)OC)=O)F)C)=O | C29H29FN6O5
